US05968688
1,2,3,4-Tetrafluoroanthraquinone and 25 g of 3-chloro-4-cyanoaniline were charged in a 50 cc, four necked flask and then the reaction was carried out at 150° C. for about 8 hours. After completion of reaction, 3-chloro-4-cyanoaniline was distilled out from the reaction solution and a column purification using a column with a silica gel was effected to give rise to 1.14 g of 2,3-bis(3-chloro-4-cyanoanilino)-1,4-difluoroanthraquinone (Dye 22') (yield 29.3 mol %). The physical properties of Dye 22' and analytical values defining the compound are tabulated in Table 23.

reactant | 1,2,3,4-Tetrafluoroanthraquinone | FC1=C(C(=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)F)F)F | C14H4F4O2
reactant | 3-chloro-4-cyanoaniline | 25 g | ClC=1C=C(N)C=CC1C#N | C7H5ClN2
product | 2,3-bis(3-chloro-4-cyanoanilino)-1,4-difluoroanthraquinone | 1.14 g | ClC=1C=C(NC2=C(C=3C(C4=CC=CC=C4C(C3C(=C2NC2=CC(=C(C=C2)C#N)Cl)F)=O)=O)F)C=CC1C#N | C28H12Cl2F2N4O2
